US07456177B2
Preparation of 6-Methoxy-5,11-diaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene-11-carboxylic acid tert-butyl ester
To a round bottomed flask fitted with nitrogen inlet and stir bar was added 6-methoxy-5,11-diaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene (100 mg, 0.49 mmol) from above, di-tert-butyl dicarbonate (120 mg, 0.54 mmol) NaHCO3 (62 mg, 0.74 mmol) in 5 ml dichloromethane and water (1 ml). The reaction mixture was stirred vigorously under reflux for one hour. The reaction mixture was cooled to room temperature and then the layers were separated. The organic phase was partitioned between dichloromethane and brine and then dried over Na2SO4 and evaporated in vacuo to afford product (142 mg, 96%). 1H NMR (CDCl3, 400 MHz, ambient temperature) δ 7.84 (d, 1H, J=5 Hz), 6.61 (broadening due to slow rotation d, 1H, J=5 Hz), 4.27 (d, 1H, J=13 Hz), 4.07 (t, 1H), 3.84 (broadening due to slow rotation s, 3H), 3.05 (br.t, 1H), 2.90 (br.t, 1H), 2.80 (br.s, 1H), 2.70 (m, 1H), 2.20 (m, 1H), 1.85 (m, 2H), 1.10 (broadening due to slow rotation s, 9H); 13C NMR (CDCl3, 100 MHz) δ 148.8, 147.0, 143.0, 142.4, 117.0, 116.7, 85.0, 53.1, 51.4, 50.3, 50.1, 49.1, 34.3, 29.3, 28.0, 27.8, 27.7, 27.5, 27.4, 27.3; APCl MS m/z 305 (M+1)+.

reactant | 6-methoxy-5,11-diaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene | 0.49 mmol, 100 mg | COC1=NC=CC=2C3CNCC(CC12)C3 | C12H16N2O
reactant | di-tert-butyl dicarbonate | 0.54 mmol, 120 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 1 ml | O | H2O
product | 6-Methoxy-5,11-diaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene-11-carboxylic acid tert-butyl ester | 142 mg, 96% | C(C)(C)(C)OC(=O)N1CC2CC=3C(=NC=CC3C(C1)C2)OC | C17H24N2O3
